US07601722B2
tert-butyl (1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-yl)carbamate (0.40 g, 0.80 mmol) was dissolved in ether:methanol (9:1) and 2 mL of 2N HCl in ether added. The solution was allowed to stand for 16 hr whereupon a colorless solid had formed. The solid was removed by filtration and washed with ether to afford 0.33 g (87%) 1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-amine dihydrochloride. HPLC purity 98.7% at 210-370 nm, 5.5 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff.Ph=3.5/ACN+MeOH) for 10 min, hold 4 min. HRMS: calcd for C20H25FN4O2S+H+, 405.17550; found (ESI, [M+H]+Obs'd), 405.1768.

reactant | tert-butyl (1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-yl)carbamate | 0.80 mmol, 0.40 g | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCCN2CCC(CC2)NC(OC(C)(C)C)=O)(=O)=O | C25H33FN4O4S
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | ether methanol | CCOCC.CO
solvent | ether | CCOCC | C4H10O
product | 1-{3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]propyl}piperidin-4-amine dihydrochloride | 0.33 g, 87% | Cl.Cl.FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CCCN2CCC(CC2)N)(=O)=O | InChI=1S/C20H25FN4O2S.2ClH/c21-17-6-1-2-7-18(17)25-20-9-4-3-8-19(20)24(28(25,26)27)13-5-12-23-14-10-16(22)11-15-23;;/h1-4,6-9,16H,5,10-15,22H2;2*1H
